US08044052B2
Step 1 [3-(4-Methyl-pyridin-2-yloxy)-phenyl]-methanol
3-Hydroxymethyl-phenol (3.69 g, 29.7 mmol), 2-fluoro-3-methyl-pyridine (3.00 g, 27 mmol,) and cesium carbonate (9.68 g, 29.7 mmol) were suspended in dimethylsulfoxide (25 mL) and heated to 110° C. After stirring for 16 h, reaction partitioned between water (250 mL) and ethyl acetate (250 mL). The organic layer was separated and the aqueous was extracted again with ethyl acetate. The combined organic layer was dried over sodium sulfate, filtered and concentrated to give a residue. The residue was purified by silica gel chromatography (10-75%, EtOAc:heptane) to afford the desired product (4.75 g, 81%) as a thick oil.

reactant | 3-Hydroxymethyl-phenol | 29.7 mmol, 3.69 g | OCC=1C=C(C=CC1)O | C7H8O2
reactant | 2-fluoro-3-methyl-pyridine | 27 mmol, 3.00 g | FC1=NC=CC=C1C | C6H6FN
reactant | cesium carbonate | 29.7 mmol, 9.68 g | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | dimethylsulfoxide | 25 mL | CS(=O)C | C2H6OS
product | [3-(4-Methyl-pyridin-2-yloxy)-phenyl]-methanol | 4.75 g, 81% | CC1=CC(=NC=C1)OC=1C=C(C=CC1)CO | C13H13NO2
